US06476061B1
c) 1-Anilino-3-(3,4-dichlorophenyl)pyrrole-2,5-dione
2.43 g (10 mmol) of -(3,4-dichlorophenyl)furan-2,5-dione and 1.08 g (10 mmol) of phenyl hydrazine in 50 ml of glacial acetic acid were boiled under ref lux for 5 h. The mixture was cooled and the product was then filtered off and washed first with glacial acetic acid and subquently with pentane. Yield: 1.8 g of a crystalline solid, m.p. 208-210° C.

reactant | (3,4-dichlorophenyl)furan-2,5-dione | ClC=1C=C(C=CC1Cl)C=1C(OC(C1)=O)=O | C10H4Cl2O3
reactant | phenyl hydrazine | 10 mmol, 1.08 g | C1(=CC=CC=C1)NN | C6H8N2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 1-Anilino-3-(3,4-dichlorophenyl)pyrrole-2,5-dione | N(C1=CC=CC=C1)N1C(C(=CC1=O)C1=CC(=C(C=C1)Cl)Cl)=O | C16H10Cl2N2O2
